US09359352B2
Synthesis of ethyl 2-(2-amino-6-chloropyridin-3-ylamino)acetate (E-25)
A stirred mixture of 6-chloropyridine-2,3-diamine (E-24) (7.2 g, 50 mol, 1.0 eq) and potassium carbonate (6.9 g, 50 mmol, 1 eq) in DMF (100 mL) was stirred for 30 min and then ethyl bromoacetate (9.2 g, 55 mmol, 1.1 eq) was added, the resulting mixture was stirred at 60-70° C. for 3 h. The reaction was complete based on TLC analysis. The reaction mixture was poured into ice-water (200 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo to afford the desired product ethyl 2-(2-amino-6-chloropyridin-3-ylamino)acetate (E-25) (5.8 g, 50.5% yield) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ: 6.39 (m, 2H), 5.93 (bs, 2H), 5.32 (m, 1H), 4.08 (m, 2H), 3.88 (d, J=6.0 Hz, 2H), 1.15 (m, 3H); ESI-MS m/z: 230.05 [M+H]+.

reactant | 6-chloropyridine-2,3-diamine | 50 mol, 7.2 g, 1.0 eq | ClC1=CC=C(C(=N1)N)N | C5H6ClN3
reactant | potassium carbonate | 50 mmol, 6.9 g, 1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 55 mmol, 9.2 g, 1.1 eq | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(2-amino-6-chloropyridin-3-ylamino)acetate | 5.8 g, 50.5% yield | NC1=NC(=CC=C1NCC(=O)OCC)Cl | C9H12ClN3O2
